US08431695B2
Step 4: Preparation of 1-amino-3-[3-(benzyloxy)phenyl]-5-(hydroxymethyl)-1H-pyrrole-2-carbonitrile
To a solution of ethyl 1-amino-4-[3-(benzyloxy)phenyl]-5-cyano-1H-pyrrole-2-carboxylate (1.00 g, 2.77 mmol) in ethanol (24 mL) was added sodium borohydride (523 mg, 13.8 mmol). The mixture was heated (80° C.) for 17 h and then cooled to rt. The reaction was quenched with the addition of water (25 mL) and the mixture was extracted with ethyl acetate (2×25 mL). The combined organics were washed with brine, dried (Na2SO4) and concentrated to dryness to obtain 883 mg (100%) of the desired product. 1H NMR (300 MHz, DMSO-d6) δ 7.48-7.42 (m, 2 H), 7.41-7.28 (m, 4 H), 7.25-7.19 (m, 2 H), 6.97-6.93 (m, 1 H), 6.41 (s, 1 H), 6.07 (s, 2 H), 5.23 (t, 1 H), 5.13 (s, 2 H), 4.49 (d, 2 H).

reactant | ethyl 1-amino-4-[3-(benzyloxy)phenyl]-5-cyano-1H-pyrrole-2-carboxylate | 2.77 mmol, 1.00 g | NN1C(=CC(=C1C#N)C1=CC(=CC=C1)OCC1=CC=CC=C1)C(=O)OCC | C21H19N3O3
reactant | sodium borohydride | 13.8 mmol, 523 mg | [BH4-].[Na+]
solvent | ethanol | 24 mL | C(C)O | C2H6O
product | 1-amino-3-[3-(benzyloxy)phenyl]-5-(hydroxymethyl)-1H-pyrrole-2-carbonitrile | 883 mg, 100% | NN1C(=C(C=C1CO)C1=CC(=CC=C1)OCC1=CC=CC=C1)C#N | C19H17N3O2
